US04294835
13 g of ethyl chlorocarbonate was added to the mixture of 3.4 g of N-(1-n-butylthio-2,2,2-trichloroethyl)-2-hydroxybenzamide and 50 ml of acetone under stirring, and 1.0 g of triethylamine was added dropwise thereto at 0°-5° C. After effecting the reaction at room temperature for one hour, the solvent was distilled off under reduced pressure, 50 ml of water was added thereto and the solution was extracted with ethyl acetate. After washing the extract with water and drying, the solvent was distilled off to obtain 3.2 g of N-(1-n-butylthio-2,2,2-trichloroethyl)-2-ethoxycarbonyloxybenzamide as a brown oily substance. nD25 1.5350

reactant | ethyl chlorocarbonate | 13 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | N-(1-n-butylthio-2,2,2-trichloroethyl)-2-hydroxybenzamide | 3.4 g | C(CCC)SC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)O)=O | C13H16Cl3NO2S
reactant | acetone | 50 ml | CC(=O)C | C3H6O
solvent | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
product | N-(1-n-butylthio-2,2,2-trichloroethyl)-2-ethoxycarbonyloxybenzamide | 3.2 g | C(CCC)SC(C(Cl)(Cl)Cl)NC(C1=C(C=CC=C1)OC(=O)OCC)=O | C16H20Cl3NO4S
